* C:\Users\HP\Desktop\elp305\week2\Draft34.asc
L1 N006 N001 727.4m
L2 N006 N002 1.98m
XU1 N004 N005 0 7805
C3 N005 0 100n
D5 0 N005 1N4007
C2 N004 0 10m
C1 N004 0 1m
D2 N002 N004 1N4007
D4 N006 N004 1N4007
D3 0 N006 1N4007
D1 0 N002 1N4007
V1 N003 N006 SINE(0 {Vrms*sqrt(2)} {freq})
R1 N001 N003 10
I1 N005 0 1
.model D D
.lib C:\Users\HP\Documents\LTspiceXVII\lib\cmp\standard.dio
K L1 L2 1
.tran 0 50m 0
* https://www.mikrocontroller.net/topic/200094
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on May 30, 03
* MODEL FORMAT: SPICE3
.MODEL 1n4007 d
+IS=7.02767e-09 RS=0.0341512 N=1.80803 EG=1.05743
+XTI=5 BV=1000 IBV=5e-08 CJO=1e-11
+VJ=0.7 M=0.5 FC=0.5 TT=1e-07
+KF=0 AF=1
.param Vrms=230
.param freq=50
.lib 78xx.lib
.backanno
.end
